US03941826
4-Chloro-2-isopropyl-5-isobutylphenyl methyl sulfide was prepared using the procedure of Example 1C except that 4-chloro-2-isopropyl-5-isobutylbenzenethiol was substituted for the 4-bromo-2,5-diisopropylbenzenethiol. The resulting product had a boiling point of 89°C at 0.08 mm Hg.

reactant | 4-chloro-2-isopropyl-5-isobutylbenzenethiol | ClC1=CC(=C(C=C1CC(C)C)S)C(C)C | C13H19ClS
reactant | 4-bromo-2,5-diisopropylbenzenethiol | BrC1=CC(=C(C=C1C(C)C)S)C(C)C | C12H17BrS
product | 4-Chloro-2-isopropyl-5-isobutylphenyl methyl sulfide | CSC1=C(C=C(C(=C1)CC(C)C)Cl)C(C)C | C14H21ClS
